US08048909B2
1-[5-(4-Fluorophenyl)-2-methyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride
To a solution (20 mL) of 5-(4-fluorophenyl)-2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde (0.40 g) in methanol were added methylammonium chloride (0.95 g) and sodium cyanoborohydride (0.30 g), and the mixture was stirred at room temperature for 20 hr. The reaction mixture was concentrated under reduced pressure, saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=1:0→1:2) to give free base of the title compound as an oil (0.30 g). The obtained oil (0.30 g) was dissolved in ethyl acetate (6 mL), and a 4 mol/L hydrogen chloride-ethyl acetate solution (3 mL) was added. The mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give the title compound as colorless crystals (yield 0.31 g, 92%).

reactant | 5-(4-fluorophenyl)-2-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | 20 mL, 0.40 g | FC1=CC=C(C=C1)C1=CC(=C(N1S(=O)(=O)C1=CC=CC=C1)C)C=O | C18H14FNO3S
reactant | methylammonium chloride | 0.95 g | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 0.30 g | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 1-[5-(4-Fluorophenyl)-2-methyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride | 0.30 g | Cl.FC1=CC=C(C=C1)C1=CC(=C(N1S(=O)(=O)C1=CC=CC=C1)C)CNC | InChI=1S/C19H19FN2O2S.ClH/c1-14-16(13-21-2)12-19(15-8-10-17(20)11-9-15)22(14)25(23,24)18-6-4-3-5-7-18;/h3-12,21H,13H2,1-2H3;1H
